US05750754
A solution of n-butylsulphonamide (500 mg) in DMF (5 ml) was added dropwise to a suspension of sodium hydride (150 mg, 60% dispersion in mineral oil) in DMF (10 ml) and the mixture was stirred for 10 minutes. 4-Methanesulphonyloxymethyl-N-benzyloxy-carbonylpiperidine (1.09 g) was added and the mixture heated at 80° C. for 16 hours. The mixture was cooled, poured into water (100 ml) and extracted with ethyl acetate (3×50 ml). The combined organic extracts were washed with water (3×50 ml) and saturated aqueous sodium chloride (50 ml), dried (MgSO4) and concentrated. The residual oil was purified by flash column chromatography, eluting with methanol/dichloromethane (1:99) to give a colourless semi-solid. This mixture was dissolved in warm tetrachloromethane (6 ml) and cooled to give 4-n-butylsulphonylaminomethyl-N-benzyloxycarbonylpiperidine (230 mg) as colourless prisms, mp 83°-85° C. NMR (d6DMSO) δ0.9(3H,t), 0.9-1.1(2H,m); 1.3-1.5(2H,m); 1.5-1.8(5H,m); 2.7-2.9(4H,m); 2.95(2H,m); 4.0(2H,d); 5.1(2H,s); 7.0(1H,t); 7.3(5H,m). m/e 369(M+H)+ ; 391(M+Na)+ ; calculated for C18H28 N2SO4 : C, 58.7; H, 7.7; N, 7.6; found: C, 58.5; H, 7.8; N, 7.6%.

reactant | n-butylsulphonamide | 500 mg | C(CCC)S(=O)(=O)N | C4H11NO2S
reactant | sodium hydride | 150 mg | [H-].[Na+]
reactant | 4-Methanesulphonyloxymethyl-N-benzyloxy-carbonylpiperidine | 1.09 g | CS(=O)(=O)OCC1CC(N(CC1)OCC1=CC=CC=C1)=C=O | C15H19NO5S
reactant | water | 100 ml | O | H2O
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | tetrachloromethane | 6 ml | ClC(Cl)(Cl)Cl | CCl4
product | 4-n-butylsulphonylaminomethyl-N-benzyloxycarbonylpiperidine | 230 mg | C(CCC)S(=O)(=O)NCC1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C18H28N2O4S
